Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been having a really hard time recently"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year old international student 
BIBA after
presenting to his ___ counselor voicing passive suicidal
statements in setting of recent shoulder surgery with
breakthrough pain, inability to engage in activities that are
typically his outlets for stress (i.e guitar, martial arts), and
distant social supports. 

Per Dr. ___ Dr. ___ evaluation on 
___:

"Patient reports that he has been struggling s/p shoulder 
surgery
x1month ago which he received in his home town of ___,
___. Patient reporting breakthrough pain on his regimen of
lyrica, tramadol, morphine. States he stopped taking these
medications x3 days ago due to poor effect and concern for
adverse effects, specifically depression and suicidal thoughts.
Also reports that martial arts and playing guitar are his usual
outlets for stress - both activities he has not been able to
engage in since his surgery, which has been frustrating. His
mother had been with patient in ___ for the past month, but
left back to ___ x3days ago , which also has been hard 
since
mom is a strong support system. 

Patient endorsing daily low mood for past few weeks, feels
hopeless about his recovery (total time projected to be 6
months), and endorsing other neurovegetative symptoms including
hypersomnia (sleeping 14 hours daily), diminished interest,
fatigue, poor concentration, decreased appetite. Endorsing 
recent
passive SI "I wonder what it would be like if I wasn't alive" 
and
over past few days has started to fantasize/engage in
planning/preparatory efforts -"I've started to think about how I
would it, but I would never act on these impulses". Describes 
how
a few days ago he sat for an hour next to his window thinking
about how it would feel if he jumped out. He also discloses
recently holding a knife, fantasizing about cutting himself, but
did not do so. These thoughts are very distressing to patient,
since he states that have escalated in frequency and intensity
over the past few weeks, leading to his visit today to school
counselor. 

Is open to the idea of inpatient stay contingent on length of
stay and ability of insurance to cover stay. Explained to 
patient
that length of stay is difficult which he was responsive too.
Reports his goals as 1) being able to start therapy with a
provider as he reports never having been able to express his
feelings openly, including with his own parents who are aware he
is the hospital for mental health reasons but unaware of his
suicidal thoughts/fantasies and 2) is open to idea of starting
psychiatric medications, which he is naïve too. 

COLLATERAL:

___, ___ (Counselor)
___
Referred patient to ED after counseling session today at ___. Was not able to reach her at this hour, 
however
left her voice message instructing her to call back to provide
collateral information. 

Per Dr. ___ with patient
Collateral from patient's mother ___ concerning for patient
having some depressive symptoms over last 2 months. She notes
stressors of shoulder surgery, illness in the family, and 
parents
being far away in ___. ___ relays that she wasn't aware
___ having suicidal thoughts. She notes though that ___
often doesn't open about his emotions.  "

Upon arrival to ___, patient endorsed worsening depressed mood
over the last 3 months as aforementioned, but described a 
history
of chronic depressed mood and intermittent passive suicidal
thoughts since he was ___ years old. patient states that he has
never thought of acting upon these suicidal thoughts and in the
past when he has felt depressed he has used exercise as a coping
mechanism. He has found it difficult to communicate his 
struggles
with his friends due to cultural limitations in ___ culture
regarding talking about mental health. He expressed that his
parents were also shocked to find out how severely distressed he
has been feeling, but that his mother is planning on flying over
to see him in the hospital given significant concern for his
safety and well being. patient expressed that since his mother
left 3 days prior, his anxiety, depressed mood, and perceived
sense of loneliness has worsened. The suicidal thoughts have
become more intrusive, and whenever he has these suicidal
thoughts (including wanting to jump out of a window), he begins
thinking bout his family which "breaks [his] heart to hurt them
like that". He was intermittently tearful during the interview
when discussing the impact he would have upon his family if he
were to harm himself. 

Mr. ___ discussed that while he struggles
academically due to the rigor of his program in ___, he
is extremely passionate about music and feels he is "at [his]
dream school". Not being able to play guitar or train w/ martial
arts has been very difficult for him to cope with. At this time,
patient reports that anxiety is an ___ out of 10 and that his
baseline level of anxiety is usually around a ___ out of 10. At
this time patient denies any suicidal ideation, feels safe on 
the
unit, has no current impulsive thoughts, intent or plan to act
upon. He repeatedly stated "I would never kill myself". 

 
Past Medical History:
========================
PAST PSYCHIATRIC HISTORY
========================
Past Diagnoses: none however patient reporting hx consistent of
___ prior depressive episodes, most recent episodes appears to 
be
consistent with situation depression (adjustment disorder) x6
months ago in setting of breaking his finger, unable to engage 
in
martial arts
Hospitalizations: none
Psychiatrist: none
Therapist: been ___ times for counseling center in ___ for
panic attack, situational depression (see past diagnosis section
above)           
Medication: no prior trials of psychiatric medications
Self-Injurious Behaviors: endorses hx of cutting most recently ___
year prior,  superficial cutting of arms and legs in setting of
situational depression
Suicide Attempts: none
Harm to others: endorses hx of fighting people in streets in
___
Access to weapons: denies
Trauma: voices hate, feelings of angers powerlessness towards
uncle in ___ who "has been terrible to my family" but does
not specify further, denies any overt hx of sexual, physical, or
emotional abuse 

====================
PAST MEDICAL HISTORY
====================
-PMHx: denies
-PCP: none currently
-Head Trauma: x1 knocked out in concert, multiple head strikes
from rugby, martial arts
-R and L shoulder dislocations (has had 9 total dislocations in
RUE, had surgery performed 1.5 months prior in ___ 

 
Social History:
B/R: ___, ___  
Patient's father is a ___, so his family moved
frequently throughout his childhood across multiple cities in 
the
___, from ___ and eventually to ___ few years prior. 
He
grew up in an intact family. Family struggled financially when
they initially moved to the ___. patient's mother and father,
along with his 2 sisters (___ and ___ ears old) live in ___.
He is very close to his sisters and his parents, texts them 
every
day. Patient expressed having difficulty with making
longer-lsating permanent friendships due ot frequently moving
around as a child. Patient currently lives in an apartment on
___ with another ___ student at ___ who 
he
met off a facebook group; his original living situation with his
friend "fell through", he dislikes this roommate and finds her 
to
be extremely messy, apartment is in disarray which is a source 
of
stress. She also brings her boyfriend to the apartment who now
"unofficially" lives with them. 

Patient is currently a ___ year, starting his ___ year beginning
of ___ at ___. he is studying Film Scoring (composing
music for film, TV shows, vidoegames, etc.), extremely 
passionate
about this. Enjoys playing the guitar, training in mixed martial
arts, lifting weights. 

Relationship Status: Single

Finances/Housing: receiving support from parents, currently
working through student employment through ___ for the next week then was scheduled to go home to ___ 
___
at the end of the summer prior to starting ___ year. 

EtOH: drinks alcohol socially on weekends
Illicits: "I smoke marijuana occasionally"
Tobacco: denies

Forensic history: ___
Family History:
Fam Dx: Uncle with dx of schizophrenia, bipolar; Mother with hx
of depression, sister had one depressive episode
"Distant relatives"- two people in his family committed suicide. 

 
Physical Exam:
====
EXAM 
====
Vitals:  T 97.8   BP  127 / 82   HR  57   RR  18   O2 sat  100 

General: Age appearing male. Well-nourished, well-developed.
Appears stated age. Tattoo on L forearm
  HEENT: Normocephalic, atraumatic. PERRLA, EOMI. Oropharynx
clear.
  Neck: Supple.
  Back: No significant deformity.
  Lungs: CTA ___. No crackles, wheezes, or rhonchi.
  CV: RRR, no murmurs/rubs/gallops. 
  Abdomen: +BS, soft, nontender, nondistended. No palpable 
masses
or organomegaly.
  Extremities: No clubbing, cyanosis, or edema. RUE in sling.
Limited ROM
  Skin: No rashes, abrasions, scars, or lesions. 

Neurological:
  pupils symmetry and responsiveness to light and accommodation:
PERRLA
  visual fields: full to confrontation
  EOM:  full
  facial sensation to light touch in all 3 divisions: equal
  facial symmetry on eye closure and smile:  symmetric
  hearing bilaterally to rubbing fingers: normal
  phonation: normal
  head turning and shoulder shrug:  intact
  tongue: midline
  Motor: muscle bulk and tone normal, RUE limited ROM at 
shoulder
due to pain, sling in place.  
   Gait: normal posture, normal gait

 
COGNITIVE: 
*Wakefulness/alertness: awake and alert 
*Attention: attentive to interview 
*Orientation: Grossly oriented to self, person, place, location,
situation 
*Memory: Intact to recent hospital events
 *Fund of knowledge: consistent with education 
*Executive function: Deferred
*Language: fluent but non native ___ speaker, no paraphasic
errors, appropriate to conversation
 
MENTAL STATUS:
*Appearance: Age appearing male, dressed in hospital attire
draped with white blanket, appears stated age, appropriate
grooming and hygiene, R sling in place, LUE tattoo across 
forearm

*Attitude: Cooperative, engaged, friendly, intermittently 
tearful
however when discussing his family. 
*Behavior: Calm, cooperative, no evidence of psychomotor
agitation or retardation. 
*Speech: normal volume, rate, prosody, articulation
*Mood: "I'm okay"
*Affect: Euthymic and reactive, though when discussing suicidal
thoughts and family, becomes tearful, dysphoric 
*Though Process: logical, linear, goal directed 
*Thought Content
-Safety: + suicidal thoughts, no intent with plan to jump out 
of
window (not fixed plan, has not taken steps towards this,
describes these thoughts as deeply distressing but also 
describes
fantasizing about these suicidal thoughts). Minimizes degree of
severity of current presentation at times.  
        No HI
-Denies Delusions
-Denies Obsessions/Compulsions
-Denies Hallucinations
-Does not seem to be responding to Internal stimuli
*Insight/ Judgment: limited/limited 

 
Pertinent Results:
___ 06:31PM BLOOD WBC-6.2 RBC-4.69 Hgb-12.8* Hct-38.9* 
MCV-83 MCH-27.3 MCHC-32.9 RDW-13.2 RDWSD-39.4 Plt ___
___ 06:31PM BLOOD Neuts-62.2 ___ Monos-5.3 Eos-1.4 
Baso-0.3 Im ___ AbsNeut-3.86 AbsLymp-1.90 AbsMono-0.33 
AbsEos-0.09 AbsBaso-0.02
___ 06:31PM BLOOD Glucose-94 UreaN-15 Creat-1.1 Na-142 
K-4.1 Cl-104 HCO3-27 AnGap-11
___ 06:06AM BLOOD ALT-13 AST-15 AlkPhos-69 TotBili-0.3
___ 06:06AM BLOOD Cholest-166
___ 06:06AM BLOOD %HbA1c-5.2 eAG-103
___ 06:06AM BLOOD Triglyc-90 HDL-60 CHOL/HD-2.8 LDLcalc-88
___ 06:06AM BLOOD TSH-0.77
___ 06:31PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 08:07PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 08:07PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

 
Brief Hospital Course:
DISCHARGE SUMMARY

___ is a ___ year old international student 
BIBA after presenting to his ___ counselor voicing passive 
suicidal statements in setting of recent shoulder surgery with 
breakthrough pain, inability to engage in activities that are 
typically his outlets for stress (i.e guitar, martial arts), and 
distant social supports. Initial evaluation in ED was concerning 
for pan positive depressive symptoms including anhedonia, poor 
sense of self worth, hopelessness, guilt, poor sleep, and 
suicidal thoughts. Patient additionally appeared dysphoric and 
tearful during interview, and while he retracted initial 
suicidal statements, expressed that he did not feel safe to 
return home.

On admission to the inpatient psychiatric unit, patient was 
started on mirtazapine 7.5mg qHS, which was uptitrated to 15mg 
qHS to help with depression and insomnia. He was also started on 
hydroxyzine 25mg TID PRN anxiety. Patient tolerated these 
medications well and reported decreased anxiety and improved 
depressive symptoms. He also presented with complaints of 
insomnia and weight loss. His sleep and appetite improved over 
the course of his admission. Patient's mother was involved in 
several family meetings and is a strong support figure for the 
patient. On discharge, his affect is brighter, he is 
future-thiking and goal-oriented. He is planning to travel home 
to ___ to spend 10 days with his family before starting 
his semester at ___. He has learned coping skills during 
this admission to manage depressive symptoms. He is planning on 
following up with a psychiatrist and therapist and continuing 
medication treatment of his depression with mirtazapine.

1. LEGAL & SAFETY:  
Patient was transported to the inpatient psychiatric unit on a 
___. On admission, the patient signed a conditional 
voluntary agreement (Section 10 & 11) and remained on that level 
throughout their admission. They were also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. There were 
no behavioral problems and no restraints required throughout 
admission.

2. PSYCHIATRIC:
#) Depression, SI: as above
- Mirtazapine 15mg qHS to treat depression
- Hydroxyzine 25mg TID to treat anxiety
- Patient benefited from group and individual psychotherapy, 
groups focusing on coping skills, and therapeutic milieu while 
admitted.

3. SUBSTANCE USE DISORDERS:
#)Cannabis Use, Alcohol use
- Patient states that he uses substances "occasionally" and in 
social situations. We discussed risks of using substances and 
ways of maintaining sobriety and limiting use of alcohol to 
prevent long term consequences. 

4. MEDICAL
#)R Shoulder Dislocation s/p surgical repair 
- Tylenol ___ mg Q8H - patient requested standing order 
- Oxycodone 5 mg Q8H:PRN for severe breakthrough pain. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. Patient was pleasant and 
interactive in the milieu.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient's mother flew in from ___ to come see her son an 
participate in his care. She is a major support for her son, and 
supportive of whatever he needs to get better. Patient will 
continue to go to school at ___, but will return home to ___ 
___ to spend 10 days with his family at the end of the moth 
before the semester starts.

#) INTERVENTIONS
- Medication: mirtazapine
- Indication: depression
- Adverse effects: drowsiness, weight gain

- Medication: hydroxyzine
- Indication: anxiety, insomnia
- Adverse effects: drowsiness, xerostomia, respiratory 
depression (high doses)

- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.

- Coordination of aftercare: please, see below for the discharge 
disposition plan. SW made several outreach attempts to obtain an 
appointment with psychiatrist. Eventually, decision was made to 
refer pt to the ___ Psychiatrist Department as patient 
planned to initiate primary care follow up at the ___.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon reported symptoms 
of depression and suicidal ideation.  Their static factors noted 
at that time include male gender, age, chronic pain. Modifiable 
risk factors include: suicidal ideation without intent/plan, no 
outpatient treaters, insomnia, distance from social supports.  
These risk factors were addressed with medication, group and 
individual therapy with emphasis on coping skills, family 
meeting and involvement, coordination with social work to 
develop outpatient providers for follow up and safe discharge 
plan. Finally, the patient is being discharged with many 
protective risk factors, including: help-seeking nature, 
future-oriented viewpoint. Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pregabalin Dose is Unknown  PO DAILY 
2. TraMADol Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H  
2.  HydrOXYzine 25 mg PO TID:PRN anxiety, insomnia  
RX *hydroxyzine HCl 25 mg one tablet by mouth every eight (8) 
hours Disp #*20 Tablet Refills:*0 
3.  melatonin 3 mg oral QHS insomnia 
take two hours before bedtime  
4.  Mirtazapine 15 mg PO QHS depression 
RX *mirtazapine 15 mg one tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN BREAKTHROUGH 
PAIN 
RX *oxycodone [Oxaydo] 5 mg one tablet(s) by mouth every eight 
(8) hours Disp #*10 Tablet Refills:*0 
6.  Oxymetazoline 2 SPRY NU BID:PRN nasal congestion  Duration: 
5 Days  
7.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [Senna Laxative] 8.6 mg one ml by mouth twice a 
day Disp #*10 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

On the discharge day, Mr. ___ reported to feel ready 
for the discharge. He described his mood as 'OK...I am ready'. 
He reported better sleep on his current medications. He still 
experiences lower mood in the morning but reports that he will 
continue to work on improving mood on the outpatient basis. He 
denied sx's of psychosis. He clearly denied any suicidal 
ideations. He shared about positive plans for future. He would 
like to proceed with studies at ___. He already had 
some job offers for the internship. Mr. ___ also shared that he 
is very close to his immediate family. He plans to travel with 
his mom to ___ to spend two weeks with his family.
On medical ROS, Mr. ___ reports ongoing pain in R shoulder 
(after the surgery, ___. He reports pain is improving. He 
denied any N/V/D/C/fever/chills.

Pt's affect was euthymic, reactive, appropriate to topics of 
conversation. No sx's of psychosis.
We offered pt to stay for additional day to address residual 
sx's of depression. Mr. ___ prefers to be discharged today which 
is a reasonable plan considering improvement of his condition.

 
Discharge Instructions:
You were admitted to ___ Inpatient Psychiatric Unit for 
depression and suicidal ideation.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___